Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old male with a history of myeloma who 
presented after being seen in clinic and noted to have a HCT of 
21 down from a baseline HCT of ___. Over the past two months 
he's had increasing somnolence and fatigue; his healthcare proxy 
(neighbor) had noticed increasing fatigue when walking around at 
home, although on the night prior to admission, he was able to 
get to the ___ without a problem. He 
denies any blood in the stool, although he's had occasional 
epistaxis, for which he's changed from a full strength aspirin 
to a baby aspirin. He denies hematuria or hematochezia.  No 
jaundice. His mood has also been poor for the past two months 
and his antidepressant was uptitrated. He was recently evaluated 
by Neurology and Neurosurgery given his history of normal 
pressure hydrocephalus but there was no indication that this 
recurred. He is on revlamid and finasteride. At the time of 
admission, other than fatigue he had no other symptoms to 
report.  

 
Past Medical History:
Hydrocephalus  
ATRIAL FIBRILLATION  
MULTIPLE MYELOMA  
peripheral neuropathy (POEMS syndrome?)
Aortic valve insufficiency  
Ventriculo-peritoneal shunt status  
Colitis, ischemic  
Sick Sinus Syndrome  
ANEMIA  
MITRAL VALVE INSUFFIC  
HYPOTHYROIDISM, UNSPEC  
GASTROENTERITIS - RADIATION  
SPLENOMEGALY  
CANCER - PROSTATE  
BASAL CELL CARCINOMA  
CORONARY ARTERY DISEASE  
ANEMIA  
LUMBAR DISC DISEASE  
HYPERCHOLESTEROLEMIA  
COLONIC ADENOMA  
SLEEP APNEA  
HEARING LOSS - SENSORINEURAL, UNSPEC  
IMPOTENCE DUE TO ERECTILE DYSFUNCTION  
PANCYTOPENIA  

 
Social History:
___
Family History:
family history of colon cancer
 
Physical Exam:
Admission Physcial Exam
VS: 97.7, BP 100/51, HR 81, RR 20, 100% RA
Gen:  Caucasian male, in no apparent distress
Cardiac: Irregular rhythm, no murmurs appreciable
Pulm: clear bilaterally
Abd: soft and nontender with no palpable masses
Ext: small subcentimer bruises on lower extremities, no 
petechiae or purpura

Discharge Physical Exam
Vitals - 98.2 108/64 86 100RA
Gen: alert and in NAD. AAOx1. 
Skin- senile purpura.
HEENT- tongue well papillated, no mucositis
Nodes- no cervical, axillary or inguinal nodes
Resp-clear to oscultation bilaterally, no w/r/r, good air 
movement
CV- RRR, ___ SEM heard throughout the precordium, normal S1/S2
Abd- soft. No masses, tenderness or organomegaly
Rectal: no masses, stool heme negative.
Ext- no edema.
Neuro: CN2-12 intact, ___ strength bilaterally both upper and 
lower extremity

 
Pertinent Results:
___ 07:15PM BLOOD WBC-3.2* RBC-2.21*# Hgb-7.3*# Hct-21.0*# 
MCV-95 MCH-32.9* MCHC-34.6 RDW-21.1* Plt ___
___ 09:35AM BLOOD WBC-4.1 RBC-3.04*# Hgb-10.0*# Hct-27.9*# 
MCV-92 MCH-33.0* MCHC-36.0* RDW-19.8* Plt Ct-95*
___ 09:35AM BLOOD Glucose-86 UreaN-17 Creat-1.1 Na-135 
K-3.8 Cl-104 HCO3-22 AnGap-13
___ 07:15PM BLOOD ALT-48* AST-34 LD(LDH)-206 AlkPhos-46 
TotBili-1.1 DirBili-0.4* IndBili-0.7
___ 07:15PM BLOOD Hapto-91
 
Brief Hospital Course:
Mr. ___ is a ___ year old male currenlty being treated for 
multiple myeloma who was sent in from clinic with an anemia.

# Anemia - His Hct upon presentation was ___elow 
his baseline. Unclear cause, however bone marrow suppression in 
the setting of myeloma is likely. Other possibilites included 
hemolytic anemia although hemolysis labs were negative, or 
bleeding event. Bone marrow biopsy was performed in clinic with 
pending results. Rectal exam was negative with negative guaiac 
in clinic. Coombs was noted to be negative as well. He received 
2 units of blood overnight and his hematocrit came up to 27.9 
prior to discharge.      

# Multiple myeloma - He is on revlimid 5mg ___ days and takes 
dexamethasone once weekly on ___. In the setting of 
polyneuropathy, POEMS syndrome has been entertained.  
 
# Depression - He was continued on citalopram 20 mg daily 
 
# Hypertension - He was continued on lisinopril and amlodipine 
 
# Hyperlipidemia  He was continued on simvastatin 
 
# Hypothyroidism - He was continued on levothyroxine 
 
# Atrial fibrillation - He was rate controlled and is on apsirin 
81mg. CHADS2 is at least 1 with a diagnosis of hypertension. 
 
# Coronary artery disease -  He was continued on ASA 81mg and 
simvastatin.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Citalopram 20 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Amlodipine 10 mg PO DAILY 
5. Simvastatin 10 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 4 times a week
7. Levothyroxine Sodium 50 mcg PO THREE TIMES A WEEK 
8. Finasteride 5 mg PO DAILY 
9. Sulfameth/Trimethoprim DS 1 TAB PO THREE TIMES A WEEK 
10. Acyclovir 400 mg PO Q12H 
11. Aspirin 81 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Dexamethasone 20 mg PO QWED  
14. Lenalidomide 5 mg PO DAILY 3 weeks on/1 week off  

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Citalopram 20 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. Levothyroxine Sodium 100 mcg PO ___, THURS, SAT, ___ 4 
times a week
8. Levothyroxine Sodium 50 mcg PO MWF 
9. Lisinopril 40 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Simvastatin 10 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO THREE TIMES A WEEK 
13. Dexamethasone 20 mg PO QWED 
14. Lenalidomide 5 mg PO DAILY 3 weeks on/1 week off 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
Anemia
Multiple Myeloma

Secondary Diangosis
Hypertension
Dementia
Depression
Hypothyroidism
Atrial Fibrillation

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you were noted to have 
a low red blood cell count (anemia). You were transfused 2 units 
of red blood cells and your blood counts came up. Your 
outpatient oncologist Dr. ___ is in the process of figuring 
out why your blood counts have been so low. If you notice any 
bleeding or start feeling lightheaded please contact your 
oncologist or go to the emergency room.
 
Followup Instructions:
___